US04272507
30.1 g (0.1 mole) of 4-(2,6-dichloroanilino)-3-thiophenacetamide are warmed to 100° in 135 ml of concentrated sulfuric acid and 49 ml of water for 3 hours. The mixture is poured onto ice, and the precipitate of 4-(2,6-dichloroanilino)-3-thiophenacetic acid which has formed in filtered off. The precipitate is boiled up with diisopropyl ether and dried; it then melts at 179° to 180°.

reactant | 4-(2,6-dichloroanilino)-3-thiophenacetamide | 0.1 mole, 30.1 g | ClC1=C(NC=2C(=CSC2)CC(=O)N)C(=CC=C1)Cl | C12H10Cl2N2OS
reactant | water | 49 ml | O | H2O
solvent | sulfuric acid | 135 ml | S(O)(O)(=O)=O | H2O4S
product | 4-(2,6-dichloroanilino)-3-thiophenacetic acid | ClC1=C(NC=2C(=CSC2)CC(=O)O)C(=CC=C1)Cl | C12H9Cl2NO2S
